US07459562B2
B) 2-(4-(4-(2-Fluoro-4-nitrophenoxy)pyridin-3-yl)phenyl)acetamide
A 25 mL round bottom flask was charged with 2-(4-(4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)phenyl)acetic acid (50 mg, 0.136 mmol), HOBT (46 mg, 0.34 mmol), and EDCI (65 mg, 0.34 mmol). The flask was flushed with nitrogen and then DMF was added (1 mL). After stirring at rt for 1 h, the solution was cooled to 0° C. and then charged with ammonium hydroxide (0.5 mL). The reaction was stirred at 0° C. for 1 h and was then diluted with brine (5 mL) and extracted with ethyl acetate (3×5 mL). The combined organic extracts were dried over anhydrous Na2SO4 and concentrated in vacuo. The crude product was purified by flash column chromatography on silica gel (20% MeOH/EtOAc) to give the title compound (33 mg, 66%) as a colorless oil. 1H NMR (CD3OD) δ 8.49 (s, 1H), 8.38 (d, 1H, J=5.6 Hz), 8.10 (dd, 1H, J=10.4, 2.4 Hz), 7.99 (m, 1H), 7.45 (d, 2H, J=8.2 Hz), 7.30 (d, 2H, J=8.2 Hz), 7.28 (m, 1H), 6.93 (d, 1H, J=5.6 Hz), 3.44 (s, 2H); MS(ESI+) m/z 368.18 (M+H)+.

reactant | 2-(4-(4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)phenyl)acetic acid | 0.136 mmol, 50 mg | FC1=C(OC2=C(C=NC=C2)C2=CC=C(C=C2)CC(=O)O)C=CC(=C1)[N+](=O)[O-] | C19H13FN2O5
reactant | HOBT | 0.34 mmol, 46 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.34 mmol, 65 mg | CCN=C=NCCCN(C)C | C8H17N3
product | 2-(4-(4-(2-Fluoro-4-nitrophenoxy)pyridin-3-yl)phenyl)acetamide | 33 mg, 66% | FC1=C(OC2=C(C=NC=C2)C2=CC=C(C=C2)CC(=O)N)C=CC(=C1)[N+](=O)[O-] | C19H14FN3O4
